US05994355
5-chloro-2-(3,5-dichlorophenyl)-2,3-dihydro-1,2,4-triazine-3-one (compound No. 17)
In 30 ml of dichloromethane suspended with 1.00 g of 2-(3,5-dichlorophenyl)-2,3,4,5-tetrahydro-1,2,4-triazine-3,5-dione followed by addition of 2-fold morlar each of carbone tetrachloride and triphenylphosphine and refluxed for 12 hours. After the completion of the reaction, the resulted solution were purified by column chromatography (Merck Silica Gel 60 dichloromethane-carbontetrachloride=2:1). m.p. 148-149° C.

reactant | 2-(3,5-dichlorophenyl)-2,3,4,5-tetrahydro-1,2,4-triazine-3,5-dione | 1.00 g | ClC=1C=C(C=C(C1)Cl)N1N=CC(NC1=O)=O | C9H5Cl2N3O2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 5-chloro-2-(3,5-dichlorophenyl)-2,3-dihydro-1,2,4-triazine-3-one | ClC1=NC(N(N=C1)C1=CC(=CC(=C1)Cl)Cl)=O | C9H4Cl3N3O
